US07560546B2
3-(Morpholin-4-ylsulfonyl)-5-(2-phenylethyl)-1H-indole-2-carboxamide
3-(Morpholin-4-ylsulfonyl)-5-(phenylethynyl)-1H-indole-2-carboxamide (50 mg, 0.12 mmol, 1.0 equiv) was dissolved in 10 mL of methanol. The vessel was degassed and charged with 10% palladium on carbon (5 mg, 10 weight percent). The vessel was then charged with 1 atm. H2 and stirred vigorously for 1 hour. The reaction was filtered through a pad of Celite, the pad was washed with methanol and the filtrate was concentrated in vacuo to provide the title compound. Proton NMR was consistent with the titled compound. HRMS (ES) exact mass calculated for C21H24N3O4S (M+H+): 414.1482. Found 414.1479.

reactant | 3-(Morpholin-4-ylsulfonyl)-5-(phenylethynyl)-1H-indole-2-carboxamide | 0.12 mmol, 50 mg, 1.0 equiv | N1(CCOCC1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)C#CC1=CC=CC=C1)C(=O)N | C21H19N3O4S
solvent | methanol | 10 mL | CO | CH4O
product | 3-(Morpholin-4-ylsulfonyl)-5-(2-phenylethyl)-1H-indole-2-carboxamide | N1(CCOCC1)S(=O)(=O)C1=C(NC2=CC=C(C=C12)CCC1=CC=CC=C1)C(=O)N | C21H23N3O4S
